.title KiCad schematic
.include "../lib/spice_models/1N914.LIB"
.include "../lib/spice_models/2N4401.lib"
.include "../lib/spice_models/RC4558.301.lib"
.include "../lib/spice_models/audio_src.lib"
.include "../lib/spice_models/pot.lib"
.include "/home/john/dox/cad/screaming-panda/ecad/lib/spice_models/2N4401BU.lib"
R23 +9V Net-_D4-Pad2_ 1k
D5 0 +9V D1N914
C12 +9V 0 100u
R9 +9V VCC 10k
R10 VCC 0 10k
C7 VCC 0 47u
XIC1 Net-_C4-Pad2_ Net-_C3-Pad1_ Net-_C2-Pad2_ 0 /tone/IN Net-_IC1-Pad6_ /volume/IN +9V RC4558
V2 +9V 0 dc 9
V1 /SIG_IN 0 ac 500m sin(0 500m 200)
C2 /drive/IN Net-_C2-Pad2_ 1u
C4 Net-_C3-Pad1_ Net-_C4-Pad2_ 50p
D2 Net-_C3-Pad1_ Net-_C4-Pad2_ D1N914
D1 Net-_C4-Pad2_ Net-_C3-Pad1_ D1N914
R7 Net-_R19-Pad3_ Net-_C3-Pad1_ 51k
R8 /tone/IN Net-_C4-Pad2_ 1k
R16 VCC /tone/IN 10k
C5 /tone/IN 0 0.22uF
R5 VCC Net-_C2-Pad2_ 10k
C3 Net-_C3-Pad1_ Net-_C3-Pad2_ 50p
R6 VCC Net-_C3-Pad2_ 4.7k
XR19 NC_01 Net-_C4-Pad2_ Net-_R19-Pad3_ POTDrive
C9 Net-_C9-Pad1_ Net-_C9-Pad2_ 220n
R11 Net-_C9-Pad2_ 0 220
R17 /volume/IN Net-_IC1-Pad6_ 1k
XR20 /tone/IN Net-_C9-Pad1_ Net-_IC1-Pad6_ POTTone
R18 Net-_R18-Pad1_ Net-_C8-Pad2_ 1k
C10 Net-_C10-Pad1_ Net-_C10-Pad2_ 0.1u
R12 VCC Net-_C10-Pad1_ 510k
R14 Net-_Q2-Pad1_ 0 10k
R15 Net-_C11-Pad1_ Net-_Q2-Pad1_ 100
C11 Net-_C11-Pad1_ /EFFECT_OUT 10u
R13 /EFFECT_OUT 0 10k
C8 /volume/IN Net-_C8-Pad2_ 1u
Q2 +9V Net-_C10-Pad1_ Net-_Q2-Pad1_ 2N4401
XR21 Net-_R18-Pad1_ Net-_C10-Pad2_ VCC POTVolume
R22 /SIG_IN 0 1.5Meg
C1 Net-_C1-Pad1_ /SIG_IN 20n
R1 Net-_Q1-Pad2_ Net-_C1-Pad1_ 1k
R2 VCC Net-_Q1-Pad2_ 501k
Q1 +9V Net-_Q1-Pad2_ /drive/IN 2N4401
R3 /drive/IN 0 10k
.tran 1u 30m 20m 
.end
